* r2r_dac_tb.cir - static (DC) bench for r2r_dac_analog (P3 spec bench,
* written from spec/spec.md, spec/spec.yaml and spec/topology.md only).
*
* sim_timeout_s: 600  (256-code sweep plus 66 one-unit +-1 % re-sweeps: timed out at 60 s at ff/125 C on a loaded host)
*
* Measures (spec.yaml names): dnl_max_abs, inl_max_abs, monotonic,
* v_zero_offset, fs_gain_err_lsb, inl_sens_1pct_max, i_vdd_avg.
* Siblings: r2r_dac_step_tb.cir (settling, 10-90, i_vdd_peak) and
* r2r_dac_glitch_tb.cir (mid-code glitches, i_vdd_peak).
*
* i_vdd_avg: mean vdd current over the 256 codes - the average over spec.md's
* full-code sweep with each code held until settled (200 ns), where the
* static ladder current dominates; the switching charge per code edge
* (7 pF x ~1 LSB plus the driver nodes) adds well under 1 % at 200 ns/code.
*
* Method: a DC sweep of an integer "code" source 0..255 step 1; eight
* behavioural sources decode it to the eight dac_code bits at 0 / VDD
* (ideal CMOS levels, as spec.md's Interface says the bench drives them).
* A DC point is the fully-settled limit of spec.md's "hold each code long
* enough to settle (e.g. 200 ns)": it reads the same end-of-step value
* without a 51 us transient. vout drives the assumed pad load (R_pad in
* series with C_load; C is open at DC). LSB_meas = (v(255)-v(0))/255,
* end-point fit, exactly spec.md's Measures table.
*
* inl_sens_1pct_max: each unit resistor +1 % and -1 %, one at a time, INL
* re-evaluated over all 256 codes. Re-sweeping 50 times costs 2-3 min per
* corner (past sim_run's 60 s timeout), so the perturbed transfer curve is
* computed from two sweeps by reciprocity, exact to first order in dR:
*   dv_out(code) = dR_j * I_j(code) * dI_j(code) / d_inj
* I_j = unit j's current in the nominal sweep; dI_j = the change of that
* current when a small test current d_inj (iinj, 10 uA) is injected into
* vout in a second sweep - the small-signal transfer from a series EMF in
* unit j to vout, at every code's own driver operating point (the driver
* Ron nonlinearity and the pull-up/pull-down asymmetry are included; only
* the dR^2 term, ~1 % of the change, is dropped). dR_j = 0.01 * R_unit,
* R_unit = rt1 + rt2 + body, read from the sweep (the PDK's ppolyf_u body
* is a behavioural element, so its R is V(body)/I). The unit list is
* spec.yaml's `devices` resistor refdes (topology.md): a unit missing from
* the netlist is a `no such device`/vector error, never a silent skip.
*
* Corners: typical selects the FET section, res_typical the matching
* resistor section (sim_run.RES_LIB_SECTION: typical/ss/ff -> res_typical/
* res_ss/res_ff; sf/fs -> res_typical, the PDK has no res_sf/res_fs).

.include '/home/ihsan/.cc/toolchains/iic-osic-tools-2026.09/foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice'
.lib '/home/ihsan/.cc/toolchains/iic-osic-tools-2026.09/foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.spice' typical
.lib '/home/ihsan/.cc/toolchains/iic-osic-tools-2026.09/foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.spice' res_typical
.include '/home/ihsan/.cc/toolchains/iic-osic-tools-2026.09/foss/pdks/gf180mcuD/libs.ref/gf180mcu_fd_sc_mcu7t5v0/spice/gf180mcu_fd_sc_mcu7t5v0.spice'
.include '/home/ihsan/.cc/worktrees/ece298a/r2r-dac/blocks/r2r_dac/analog/log/bench_strength/xrtb_connection_removed__r2r_dac.cir'
.param ru_w=2e-06 ru_l=0.00015 rb_l=0.00014836

* tight tolerances: INL is read to 0.01 LSB (0.13 mV); the default
* reltol=1e-3 leaves up to ~1 mV of solver noise on a 1.6 V node
.options reltol=1e-6 vntol=1e-9 abstol=1e-13
.temp 27
.param vddp=3.3
* assumed TT ua[0] pad load (spec.md "Values chosen"), one parameter each
.param r_pad=100 c_load=7p

vdd vdd 0 {vddp}
vss vss 0 0

* integer code, swept 0..255 by the .control block below
vcode code 0 0
* bit k of the code at ideal CMOS levels (0.25 guards the floor at integers)
bc7 b7 0 v={vddp*(floor((v(code)+0.25)/128) - 2*floor((v(code)+0.25)/256))}
bc6 b6 0 v={vddp*(floor((v(code)+0.25)/64)  - 2*floor((v(code)+0.25)/128))}
bc5 b5 0 v={vddp*(floor((v(code)+0.25)/32)  - 2*floor((v(code)+0.25)/64))}
bc4 b4 0 v={vddp*(floor((v(code)+0.25)/16)  - 2*floor((v(code)+0.25)/32))}
bc3 b3 0 v={vddp*(floor((v(code)+0.25)/8)   - 2*floor((v(code)+0.25)/16))}
bc2 b2 0 v={vddp*(floor((v(code)+0.25)/4)   - 2*floor((v(code)+0.25)/8))}
bc1 b1 0 v={vddp*(floor((v(code)+0.25)/2)   - 2*floor((v(code)+0.25)/4))}
bc0 b0 0 v={vddp*(floor((v(code)+0.25)/1)   - 2*floor((v(code)+0.25)/2))}

* DUT, pins in topology.md order:
* dac_code[7..0] vout vdd vss
xdut b7 b6 b5 b4 b3 b2 b1 b0 vout vdd vss r2r_dac_analog

* pad load
rpad vout vpad {r_pad}
cload vpad 0 {c_load}
* test current for inl_sens_1pct_max (0 except in the reciprocity sweep)
iinj 0 vout 0

.control
set noaskquit
save v(vout) v(vdd) i(vdd)
save @r.xdut.xrb7a.rt1[i] @r.xdut.xrb7a.rt1[resistance] @r.xdut.xrb7a.rt2[resistance] v(xdut.xrb7a.11) v(xdut.xrb7a.21)
save @r.xdut.xrb7b.rt1[i] @r.xdut.xrb7b.rt1[resistance] @r.xdut.xrb7b.rt2[resistance] v(xdut.xrb7b.11) v(xdut.xrb7b.21)
save @r.xdut.xrb6a.rt1[i] @r.xdut.xrb6a.rt1[resistance] @r.xdut.xrb6a.rt2[resistance] v(xdut.xrb6a.11) v(xdut.xrb6a.21)
save @r.xdut.xrb6b.rt1[i] @r.xdut.xrb6b.rt1[resistance] @r.xdut.xrb6b.rt2[resistance] v(xdut.xrb6b.11) v(xdut.xrb6b.21)
save @r.xdut.xrb5a.rt1[i] @r.xdut.xrb5a.rt1[resistance] @r.xdut.xrb5a.rt2[resistance] v(xdut.xrb5a.11) v(xdut.xrb5a.21)
save @r.xdut.xrb5b.rt1[i] @r.xdut.xrb5b.rt1[resistance] @r.xdut.xrb5b.rt2[resistance] v(xdut.xrb5b.11) v(xdut.xrb5b.21)
save @r.xdut.xrb4a.rt1[i] @r.xdut.xrb4a.rt1[resistance] @r.xdut.xrb4a.rt2[resistance] v(xdut.xrb4a.11) v(xdut.xrb4a.21)
save @r.xdut.xrb4b.rt1[i] @r.xdut.xrb4b.rt1[resistance] @r.xdut.xrb4b.rt2[resistance] v(xdut.xrb4b.11) v(xdut.xrb4b.21)
save @r.xdut.xrb3a.rt1[i] @r.xdut.xrb3a.rt1[resistance] @r.xdut.xrb3a.rt2[resistance] v(xdut.xrb3a.11) v(xdut.xrb3a.21)
save @r.xdut.xrb3b.rt1[i] @r.xdut.xrb3b.rt1[resistance] @r.xdut.xrb3b.rt2[resistance] v(xdut.xrb3b.11) v(xdut.xrb3b.21)
save @r.xdut.xrb2a.rt1[i] @r.xdut.xrb2a.rt1[resistance] @r.xdut.xrb2a.rt2[resistance] v(xdut.xrb2a.11) v(xdut.xrb2a.21)
save @r.xdut.xrb2b.rt1[i] @r.xdut.xrb2b.rt1[resistance] @r.xdut.xrb2b.rt2[resistance] v(xdut.xrb2b.11) v(xdut.xrb2b.21)
save @r.xdut.xrb1a.rt1[i] @r.xdut.xrb1a.rt1[resistance] @r.xdut.xrb1a.rt2[resistance] v(xdut.xrb1a.11) v(xdut.xrb1a.21)
save @r.xdut.xrb1b.rt1[i] @r.xdut.xrb1b.rt1[resistance] @r.xdut.xrb1b.rt2[resistance] v(xdut.xrb1b.11) v(xdut.xrb1b.21)
save @r.xdut.xrb0a.rt1[i] @r.xdut.xrb0a.rt1[resistance] @r.xdut.xrb0a.rt2[resistance] v(xdut.xrb0a.11) v(xdut.xrb0a.21)
save @r.xdut.xrb0b.rt1[i] @r.xdut.xrb0b.rt1[resistance] @r.xdut.xrb0b.rt2[resistance] v(xdut.xrb0b.11) v(xdut.xrb0b.21)
save @r.xdut.xrs6.rt1[i] @r.xdut.xrs6.rt1[resistance] @r.xdut.xrs6.rt2[resistance] v(xdut.xrs6.11) v(xdut.xrs6.21)
save @r.xdut.xrs5.rt1[i] @r.xdut.xrs5.rt1[resistance] @r.xdut.xrs5.rt2[resistance] v(xdut.xrs5.11) v(xdut.xrs5.21)
save @r.xdut.xrs4.rt1[i] @r.xdut.xrs4.rt1[resistance] @r.xdut.xrs4.rt2[resistance] v(xdut.xrs4.11) v(xdut.xrs4.21)
save @r.xdut.xrs3.rt1[i] @r.xdut.xrs3.rt1[resistance] @r.xdut.xrs3.rt2[resistance] v(xdut.xrs3.11) v(xdut.xrs3.21)
save @r.xdut.xrs2.rt1[i] @r.xdut.xrs2.rt1[resistance] @r.xdut.xrs2.rt2[resistance] v(xdut.xrs2.11) v(xdut.xrs2.21)
save @r.xdut.xrs1.rt1[i] @r.xdut.xrs1.rt1[resistance] @r.xdut.xrs1.rt2[resistance] v(xdut.xrs1.11) v(xdut.xrs1.21)
save @r.xdut.xrs0.rt1[i] @r.xdut.xrs0.rt1[resistance] @r.xdut.xrs0.rt2[resistance] v(xdut.xrs0.11) v(xdut.xrs0.21)
save @r.xdut.xrta.rt1[i] @r.xdut.xrta.rt1[resistance] @r.xdut.xrta.rt2[resistance] v(xdut.xrta.11) v(xdut.xrta.21)
save @r.xdut.xrtb.rt1[i] @r.xdut.xrtb.rt1[resistance] @r.xdut.xrtb.rt2[resistance] v(xdut.xrtb.11) v(xdut.xrtb.21)

* ---- nominal 256-code sweep -> dc1 ------------------------------------
dc vcode 0 255 1
let vo = v(vout)
let vs = v(vdd)[0]
let lsb = (vo[255] - vo[0]) / 255
let kk = vector(256)
let inl = (vo - (vo[0] + kk*lsb)) / lsb
let dv = vo[1,255] - vo[0,254]
let dnl = dv/lsb - 1
let inl_max_abs = vecmax(abs(inl))
let dnl_max_abs = vecmax(abs(dnl))
let monotonic = vecmin(dv) gt 0
let v_zero_offset = vo[0]
let fs_gain_err_lsb = ((vo[255] - vo[0]) - 255/256*vs) / (vs/256)
let i_vdd_avg = mean(-i(vdd))

* ---- same sweep with d_inj = 10 uA into vout -> dc2 -------------------
alter iinj dc = 10u
dc vcode 0 255 1
alter iinj dc = 0
setplot dc1
let sens_worst = 0
foreach u xrb7a xrb7b xrb6a xrb6b xrb5a xrb5b xrb4a xrb4b xrb3a xrb3b xrb2a xrb2b xrb1a xrb1b xrb0a xrb0b xrs6 xrs5 xrs4 xrs3 xrs2 xrs1 xrs0 xrta xrtb
  let ij = @r.xdut.{$u}.rt1[i]
  let runit = @r.xdut.{$u}.rt1[resistance][255] + @r.xdut.{$u}.rt2[resistance][255] + (v(xdut.{$u}.11)[255] - v(xdut.{$u}.21)[255]) / ij[255]
  let dij = dc2.@r.xdut.{$u}.rt1[i] - ij
  let dvu = 0.01*runit * ij * dij / 10u
  foreach sgn 1 -1
    let vop = vo + $sgn*dvu
    let lsbp = (vop[255] - vop[0]) / 255
    let inls = vecmax(abs((vop - (vop[0] + kk*lsbp)) / lsbp))
    let sens_worst = (inls gt sens_worst)*inls + (inls le sens_worst)*sens_worst
  end
end

echo
echo "  Measurements for DC Analysis (r2r_dac_tb, computed in .control)"
echo "dnl_max_abs = $&dnl_max_abs"
echo "inl_max_abs = $&inl_max_abs"
echo "monotonic = $&monotonic"
echo "v_zero_offset = $&v_zero_offset"
echo "fs_gain_err_lsb = $&fs_gain_err_lsb"
echo "inl_sens_1pct_max = $&sens_worst"
echo "i_vdd_avg = $&i_vdd_avg"
echo
.endc

.end
